US04603201
6-(3,5-Dichloro-4-methylphenyl)-4-methylthio-4,5-dihydro-3(2H)pyridazinone
1.54 g (0.005 mole) of 4-(3,5-dichloro-4-methylphenyl)-2-methylthio-4-oxobutyric acid, prepared as described in step (c) above, were suspended in 5 ml of ethanol and then 0.25 g of hydrazine monohydrate was added, at room temperature, to the suspension, after which the mixture was stirred for 1 hour at room temperature. The mixture was then heated under reflux for 6 hours, after which it was cooled and the resulting crystals were collected by filtration and washed with a small amount of ethanol, to give 1.32 g (yield 87.1%) of the desired Compound No. 22, melting at 163°-165° C.

reactant | 4-(3,5-dichloro-4-methylphenyl)-2-methylthio-4-oxobutyric acid | 0.005 mole, 1.54 g | ClC=1C=C(C=C(C1C)Cl)C(CC(C(=O)O)SC)=O | C12H12Cl2O3S
reactant | hydrazine monohydrate | 0.25 g | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-(3,5-Dichloro-4-methylphenyl)-4-methylthio-4,5-dihydro-3(2H)pyridazinone | 1.32 g, yield 87.1% | ClC=1C=C(C=C(C1C)Cl)C=1CC(C(NN1)=O)SC | C12H12Cl2N2OS
